### PR TITLE
Lemmas about set_collect, collect_rel, set_map, map_rel

### PR DESCRIPTION
**Pull request by eupp**
Changes in this PR:

1) Added `set_map` by analogy to `map_rel`:

```Coq
Definition set_map f d  := fun x => d (f x).
```

2) Added notation. 

```Coq
Notation "f ↑ P" := (collect_rel f P) (at level 30).
Notation "f ↓ Q" := (map_rel f Q) (at level 30).

Notation "f ↑₁ P" := (set_collect f P) (at level 30).
Notation "f ↓₁ Q" := (set_map f Q) (at level 30).
```

In our earlier development (in [weakestmoToImm](https://github.com/weakmemory/weakestmoToImm/))
we've used different notation: `f □ r` for collect and `f ⋄ r` for map. 
However, my opinion is that the notation we've used initially is not very informative and the new notation is more natural. 

3) Added more lemmas about `set_collect`, `collect_rel`, `set_map`, `map_rel`.

Moreover, during our development, we've noticed that `set_collect`/`set_map` 
(`collect_rel`/`map_rel` corr.) correspond to `map`/`comap` over `A -> Prop` functor. 

```Coq
set_collect : forall A B : Type, (A -> B) -> (A -> Prop) -> B -> Prop
```

```Coq
set_map : forall A B : Type, (A -> B) -> (B -> Prop) -> A -> Prop
```

So the better naming would be `set_map` for `set_collect` and `set_comap` for `set_map`. 
But, I guess, currently it would be painful to change names, since it would break backward compatibility.

### CODE REVIEW

File: HahnEquational.v [hunk 1]
```diff
@@ -2,11 +2,13 @@
 (** * Equational properties of relations *)
 (******************************************************************************)
 
-Require Import NPeano Omega Permutation List Setoid.
+Require Import Program.Basics NPeano Omega Permutation List Setoid.
```
Comment (vafeiadis) [inline HahnEquational.v]: Why we need to import Program.Basics?

File: HahnEquational.v [hunk 2]
```diff
@@ -1032,29 +1032,94 @@ Ltac rel_transp :=
...
+  Lemma map_rel_false f :
+    f ↓ ∅₂ ≡ ∅₂.
+  Proof. u. Qed.
 
-Lemma map_rel_minus A B (f : A -> B) r r' :
-  map_rel f (r \ r') ≡ map_rel f r \ map_rel f r'.
-Proof. u. Qed.
+  Lemma map_rel_false f :
+    f ↓ ∅₂ ≡ ∅₂.
+  Proof. u. Qed.
```
Comment (vafeiadis) [inline HahnEquational.v]: Twice the same lemma?

File: HahnEquational.v (hunk 1 above)
Comment (eupp) [reply HahnEquational.v]: It was needed for function composition notation ∘. 
Perhaps, this notation can be imported from another place or restated somewhere in Hahn,
so we can avoid importing `Program.Basics`?
